US04870074
Preparation of 2-(2-cyanoethyl)morpholine
A solution of 2-(2-cyanoethyl)-4-benzyloxycarbonylmorpholine (10.7 g) in ethanol (60 ml) is hydrogenated over 5% palladium on carbon (1 g) at 25° C. After the calculated amount of hydrogen is absorbed, the catalyst is filtered off. The filtrate is evaporated under reduced pressure to give the title compound (5.4 g) as an oil.

reactant | 2-(2-cyanoethyl)-4-benzyloxycarbonylmorpholine | 10.7 g | C(#N)CCC1CN(CCO1)C(=O)OCC1=CC=CC=C1 | C15H18N2O3
solvent | ethanol | 60 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 1 g | [Pd] | Pd
product | 2-(2-cyanoethyl)morpholine | 5.4 g | C(#N)CCC1CNCCO1 | C7H12N2O
